US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride as starting compound and 5-bromo-1-(1-methyl-1 H-indol-3-yl)-1-pentanone were reacted and treated in the same manner as in Example 172 to give 4-amino-5-chloro-2-methoxy-N-((1-(5-(1 -methyl-1 H-indol-3-yl)-5-oxopentyl)piperidin-4-yl)methyl)benzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 5-bromo-1-(1-methyl-1 H-indol-3-yl)-1-pentanone | BrCCCCC(=O)C1=CN(C2=CC=CC=C12)C | C14H16BrNO
product | 4-amino-5-chloro-2-methoxy-N-((1-(5-(1 -methyl-1 H-indol-3-yl)-5-oxopentyl)piperidin-4-yl)methyl)benzamide | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCC(=O)C2=CN(C3=CC=CC=C23)C)C=C1Cl)OC | C28H35ClN4O3
